US04503063
1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol
To 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane (6.7 g) in dimethylformamide (198 ml) at 60° C. was added dropwise over 25 minutes, a solution of sodium cyanide (2.84 g) in water (49 ml). Heating at 60° C. was continued for five hours. The reaction mixture was then cooled, poured into water (900 ml), and extracted with ethyl acetate (3×150 ml). The combined organic extracts were washed with saturated aqueous brine, dried (Na2SO4) and evaporated to dryness to give a pale yellow solid (6.1 g) which was triturated with ethyl ether. The residual solid was recrystallized from ethyl ether/methanol to give the title compound, 4.13 g (56%), m.p. 217°-219° C.

reactant | 2-(2,4-Dichlorophenyl)-2-(1H-1,2,4-triazol-1-ylmethyl)oxirane | 6.7 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1N=CN=C1 | C11H9Cl2N3O
reactant | sodium cyanide | 2.84 g | [C-]#N.[Na+]
solvent | dimethylformamide | 198 ml | CN(C=O)C | C3H7NO
solvent | water | 49 ml | O | H2O
solvent | water | 900 ml | O | H2O
product | 1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 6.1 g | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
